US08530493B2
1. (3aSR,10RS)-6-Ethoxy-10-(3-hydroxy-phenyl)-2,3a-dimethyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione
A solution of 125 mg (1RS,3SR)-6-ethoxy-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-betacarboline-3-carboxylic acid methyl ester and 226 mg N-succinimidyl-N-methylcarbamate in a mixture of 5 ml acetonitrile and 1 ml water is heated to 150° C. for 30 min using a microwave reactor. Water and ethylacetate are added to the solution. The aqueous phase is extracted with ethylacetate and the combined organic layers are dried with magnesium sulfate. The solvents are removed under reduced pressure. After purification by column chromatography (toluene/ethylactate 4:1) 15 mg of the title compound are obtained as a colorless foam (MS: m/z (MH+)=406.1).

reactant | (1RS,3SR)-6-ethoxy-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-betacarboline-3-carboxylic acid methyl ester | 125 mg | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)OCC)C1=CC(=CC=C1)O)C | C22H24N2O4
reactant | N-succinimidyl-N-methylcarbamate | 226 mg | C1(CCC(N1N(C([O-])=O)C)=O)=O
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | 1 ml | O | H2O
product | (3aSR,10RS)-6-Ethoxy-10-(3-hydroxy-phenyl)-2,3a-dimethyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione | C(C)OC=1C=C2C=3CC4(N(C(C3NC2=CC1)C1=CC(=CC=C1)O)C(N(C4=O)C)=O)C | C23H23N3O4
